US04409220
2-Amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
11.15 gm (47.2 mmols) of ethyl 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-7-carboxylate were dissolved in 300 ml of ethanol, and the solution was admixed with 30 gm of potassium hydroxide. The mixture was evaporated to dryness, and the residue was heated for 3 hours at 100° C. and then taken up in water. The aqueous solution was extracted with chloroform with the aid of a heavy phase perforator, and the chloroform extract solution was purified on a silicagel column with chloroform/methanol/concentrated ammonia (24:12:1) as the mobile phase.

reactant | ethyl 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-7-carboxylate | 47.2 mmols, 11.15 gm | NC=1C=NC2=C(CCN(CC2)C(=O)OCC)N1 | C11H16N4O2
reactant | potassium hydroxide | 30 gm | [OH-].[K+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-Amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCNCC2)N1 | C8H12N4
